US07008957B2
7c) (R)-2-tert-Butoxycarbonylamino-2-isobutylpent-4-enoic acid
60 ml of ammonia were condensed at −78° C. Then 624 mg of sodium were added in 2 portions at an interval of 10 min. The mixture was stirred for 20 min. At −60° C., a solution of tert-butyl (3R,5S,6R)-3-allyl-3-isobutyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate 1.22 g and 1.6 ml of ethanol in 20 ml of THF was added dropwise thereto. The mixture was stirred at −45° C. for 1.5 h, and the reaction was stopped by adding solid ammonium chloride until the blue color disappeared. The ammonia is then allowed to evaporate off, and 50 ml of water are added to the residue. The THF is removed in vacuo. The aqueous is adjusted to pH 2 with 1 N HCl and extracted 3 times with 60 ml of ethyl acetate each time. The combined organic phases are dried with MgSO4. The solvents are removed in vacuo and the residue is purified by chromatography on silica gel.

reactant | ammonia | 60 ml | N | H3N
reactant | sodium | 624 mg | [Na] | Na
reactant | tert-butyl (3R,5S,6R)-3-allyl-3-isobutyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate | 1.22 g | C(C=C)[C@]1(N([C@H]([C@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)CC(C)C | C28H35NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | 1.6 ml | C(C)O | C2H6O
product | (R)-2-tert-Butoxycarbonylamino-2-isobutylpent-4-enoic acid | C(C)(C)(C)OC(=O)N[C@@](C(=O)O)(CC=C)CC(C)C | C14H25NO4
